US09145380B2
a) (E)-5-Chloro-2-(2-(3,4-dichlorophenyl)vinylsulfonamido)-4-fluoro benzenesulfonamide
The title compound was synthesized as described for Example 226 a) in 40% yield, starting from 2-amino-5-chloro-4-fluorobenzenesulfonamide and (E)-2-(3,4-dichlorophenyl)ethenesulfonyl chloride.

reactant | 2-amino-5-chloro-4-fluorobenzenesulfonamide | NC1=C(C=C(C(=C1)F)Cl)S(=O)(=O)N | C6H6ClFN2O2S
reactant | (E)-2-(3,4-dichlorophenyl)ethenesulfonyl chloride | ClC=1C=C(C=CC1Cl)/C=C/S(=O)(=O)Cl | C8H5Cl3O2S
product | (E)-5-Chloro-2-(2-(3,4-dichlorophenyl)vinylsulfonamido)-4-fluoro benzenesulfonamide | 40% yield | ClC=1C(=CC(=C(C1)S(=O)(=O)N)NS(=O)(=O)\C=C\C1=CC(=C(C=C1)Cl)Cl)F | C14H10Cl3FN2O4S2
